US09371320B2
D) 1-benzyl-3,3-difluoro-1,2,3,6-tetrahydropyridin-4-yl trifluoromethanesulfonate
To a mixture of ethyl 1-benzyl-5,5-difluoro-4-hydroxy-1,2,5,6-tetrahydropyridine-3-carboxylate (2.43 g) and 1,8-diazabicyclo[5.4.0]undec-7-ene (7.61 g) in anhydrous 1,4-dioxane (30 mL) was added 1,1,1-trifluoro-N-phenyl-N-((trifluoromethyl)sulfonyl)methanesulfonamide (10.7 g) at room temperature. The reaction mixture was stirred at 80° C. overnight, and added to water, and the mixture was extracted with ethyl acetate. The organic layer was dried over anhydrous sodium sulfate, and concentrated under reduced pressure. The residue was purified by silica gel chromatography (ethyl acetate/petroleum ether) to give the title compound (1.86 g).

reactant | ethyl 1-benzyl-5,5-difluoro-4-hydroxy-1,2,5,6-tetrahydropyridine-3-carboxylate | 2.43 g | C(C1=CC=CC=C1)N1CC(=C(C(C1)(F)F)O)C(=O)OCC | C15H17F2NO3
reactant | 1,8-diazabicyclo[5.4.0]undec-7-ene | 7.61 g | N12CCCCCC2=NCCC1 | C9H16N2
reactant | 1,1,1-trifluoro-N-phenyl-N-((trifluoromethyl)sulfonyl)methanesulfonamide | 10.7 g | FC(S(=O)(=O)N(S(=O)(=O)C(F)(F)F)C1=CC=CC=C1)(F)F | C8H5F6NO4S2
reactant | water | O | H2O
solvent | 1,4-dioxane | 30 mL | O1CCOCC1 | C4H8O2
product | 1-benzyl-3,3-difluoro-1,2,3,6-tetrahydropyridin-4-yl trifluoromethanesulfonate | 1.86 g | FC(S(=O)(=O)OC=1C(CN(CC1)CC1=CC=CC=C1)(F)F)(F)F | C13H12F5NO3S
